US09085583B2
A mixture of ethyl 2-methyl-1H-indole-3-carboxylate (400 mg, 1.97 mmol) and sodium hydride (47 mg, 2.0 mmol) in N,N-dimethylformamide (5.0 mL) was stirred at room temperature for 0.5 hours, and then (1-bromoethyl)benzene (361 mg, 2.0 mmol) was added. The mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into ice-cold water and extracted with ethyl acetate. Organic layers were combined and concentrated to give a residue. The residue was purified by chromatography (petroleum ether/ethyl acetate=5:1) to give ethyl 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylate (340 mg, 56%). LRMS (M+H+) m/z: calcd 307.16. found 307.

reactant | ethyl 2-methyl-1H-indole-3-carboxylate | 1.97 mmol, 400 mg | CC=1NC2=CC=CC=C2C1C(=O)OCC | C12H13NO2
reactant | sodium hydride | 2.0 mmol, 47 mg | [H-].[Na+]
reactant | (1-bromoethyl)benzene | 2.0 mmol, 361 mg | BrC(C)C1=CC=CC=C1 | C8H9Br
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | ethyl 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylate | 340 mg, 56% | CC=1N(C2=CC=CC=C2C1C(=O)OCC)C(C)C1=CC=CC=C1 | C20H21NO2
